US04166908
Preparation of 2-ethyl-5-nitrobenzyl methyl ether
Sodium methoxide is added portionwise to a solution of 150.0 g of α-chloro-2-ethyl-5-nitrotoluene in 1.15 l. of methanol maintained between 18° C. and 30° C. The mixture is refluxed for 2 hours, cooled to 3° C., and filtered. The filtrate is concentrated under vacuum and the resulting slurry shaken with saturated aqueous sodium chloride and methylene chloride. The methylene chloride layer is washed, filtered through sodium sulfate, and stirred over magnesium sulfate. The filtered solution is concentrated under vacuum to yield 133.89 g of a dark brown liquid. The crude product is fractionated by vacuum distillation to yield a yellow liquid with boiling point 113° C. to 115° C. at 0.35 mm Hg which solidifies to light yellow prisms with mp 21.5° C. to 23.5° C.

reactant | Sodium methoxide | C[O-].[Na+]
reactant | α-chloro-2-ethyl-5-nitrotoluene | 150.0 g | ClCC1=C(C=CC(=C1)[N+](=O)[O-])CC | C9H10ClNO2
solvent | methanol | CO | CH4O
product | 2-ethyl-5-nitrobenzyl methyl ether | 133.89 g | COCC1=C(C=CC(=C1)[N+](=O)[O-])CC | C10H13NO3
